US07153884B2
Triethyl silyl chloride (0.316 g, 2.1 mmol) and imidazole (0.100 g, 1.5 mmol) were added to a stirred solution of (3R,4R)-4-(furan-2-yl)-3-hydroxy-3-methyl-azetidin-2-one (0.167 g, 1.0 mmol) in DMF (6.0 ml) at 25° C. under argon atmosphere. The reaction solution was quenched after 4 h with a saturated NH4Cl aqueous solution and extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure. Chromatography of the residue (SiO2, ethyl acetate/n-pentane, 1:2) afforded 0.190 g (0.67 mmol 67%) of (3R,4S)-4-(furan-2-yl)-3-triethylsilyloxy-3-methyl-azetidin-2-one: [α]D20=+42.8 (c 1.04, CHCl3); IR (CDCl3, cm−1): 3600–3000, 3413, 2957, 1768, 1458, 1377, 1012; 1H NMR (CDCl3): δ=0.65 (m, 6H, 3 CH2), 0.95 (t, 9H, 3 Me), 1.19 (s, 3H, Me), 4.54 (s, 1H), 6.27 (d, 1H, 2-furyl), 6.28 (m, 1H, 2-furyl), 6.72 (b, 1H, NH), 7.40 (m, 1H, 2-furyl); 13H NMR (CDCl3): δ=5.71 (CH2), 6.73 (Me), 19.3 (Me), 61.0 (CH), 89.1(C), 108.1 (CH), 110.5 (CH), 142.7 (CH), 150.9 (C), 171.5 (C).

reactant | Triethyl silyl chloride | 2.1 mmol, 0.316 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | imidazole | 1.5 mmol, 0.100 g | N1C=NC=C1 | C3H4N2
reactant | (3R,4R)-4-(furan-2-yl)-3-hydroxy-3-methyl-azetidin-2-one | 1.0 mmol, 0.167 g | O1C(=CC=C1)[C@H]1[C@@](C(N1)=O)(C)O | C8H9NO3
reactant | ethyl acetate n-pentane | C(C)(=O)OCC.CCCCC
solvent | DMF | 6.0 ml | CN(C)C=O | C3H7NO
product | (3R,4S)-4-(furan-2-yl)-3-triethylsilyloxy-3-methyl-azetidin-2-one | 0.67 mmol, 0.190 g, 67% | O1C(=CC=C1)[C@H]1[C@@](C(N1)=O)(C)O[Si](CC)(CC)CC | C14H23NO3Si
